US04795751
A mixture of ethyl 1-cyclopropyl-5-ethoxycarbonylamino-6,8-difluoro-7-(3-methyl-1-piperazinyl)-1,4-dihydro-4-oxoquinoline-3-carboxylate, 20% aqueous sodium hydroxide, and ethanol was refluxed for 12 hours. The reaction mixture was treated with activated carbon and adjusted at pH 1-2 with 10% hydrochloric acid. After cooling, the resulting crystals were collected by filtration and recrystallization from water-ethanol to give 5-amino-1-cyclopropyl-6,8-difluoro-7-(3-methyl-1-piperazinyl)-1,4-dihydro-4-oxoquinoline-3-carboxylic acid hydrochloride, m.p. >300° C.

reactant | ethyl 1-cyclopropyl-5-ethoxycarbonylamino-6,8-difluoro-7-(3-methyl-1-piperazinyl)-1,4-dihydro-4-oxoquinoline-3-carboxylate | C1(CC1)N1C=C(C(C2=C(C(=C(C(=C12)F)N1CC(NCC1)C)F)NC(=O)OCC)=O)C(=O)OCC | C23H28F2N4O5
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | C(C)O | C2H6O
product | 5-amino-1-cyclopropyl-6,8-difluoro-7-(3-methyl-1-piperazinyl)-1,4-dihydro-4-oxoquinoline-3-carboxylic acid hydrochloride | Cl.NC1=C2C(C(=CN(C2=C(C(=C1F)N1CC(NCC1)C)F)C1CC1)C(=O)O)=O | InChI=1S/C18H20F2N4O3.ClH/c1-8-6-23(5-4-22-8)16-12(19)14(21)11-15(13(16)20)24(9-2-3-9)7-10(17(11)25)18(26)27;/h7-9,22H,2-6,21H2,1H3,(H,26,27);1H
